US05844024
6.0 g (23.0 mmol) of tin tetrachloride are slowly added to a solution of 21.1 g (92.3 mmol) of 5-chloro-10,11-dihydro-5H-dibenzo[a,d]cycloheptene [V. Mychajlyszyn et al, Coll. Czech. Chem. Comm. 24, 3955 (1959)] and 11.3 g (114 mmol) of trimethylsilylcyanide in 150 ml of methylene chloride. The reaction mixture is stirred at room temperature for 10 hours and then diluted with 150 ml of methylene chloride, and 200 ml of water are added. The organic phase is separated off, washed with dilute sodium bicarbonate solution, dried over sodium sulfate and concentrated on a vacuum rotary evaporator. Crystallization of the residue from toluene gives 18.0 g (88.9%) of 5-cyano-10,11-dihydro-5H-dibenzo[a,d]-cycloheptene, melting point 89°-90° C. (compound (104), Table 1).

reactant | tin tetrachloride | 23.0 mmol, 6.0 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | 5-chloro-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 92.3 mmol, 21.1 g | ClC1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C15H13Cl
reactant | trimethylsilylcyanide | 114 mmol, 11.3 g | C[Si](C)(C)C#N | C4H9NSi
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | water | 200 ml | O | H2O
product | 5-cyano-10,11-dihydro-5H-dibenzo[a,d]-cycloheptene | 18.0 g, 88.9% | C(#N)C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C16H13N
